US06410790B1
The base was freed from the 2.0 g (5.77 mmole) of the hydrochloride of 2-[(4-bromophenyl)dimethylaminomethyl]cyclohexanone obtained according to stage 1 with 20 ml of water and 5 ml of ammonia solution (25 vol. %), extracted three times with 20 ml of ether each time, and the combined organic extracts were dried over sodium sulfate, filtered, and concentrated by evaporation on a rotary evaporator without heating (500 to 10 mbar). 1.70 g (5.5 mmole) of this base were dissolved in 8.5 ml of tetrahydrofuran, added dropwise while cooling in an ice bath to 3.3 ml (6.6 mmole) of benzylmagnesium chloride (2 M solution in tetrahydrofuran), and stirred for 15 hours at RT. The reaction mixture was worked up by adding 10 ml of saturated ammonium chloride solution while cooling in an ice bath, and was extracted three times at RT with 10 ml of ether each time. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated by evaporation on a rotary evaporator (500 to 10 mbar). 1.91 g of crude base (86.64% of theory) were obtained, from which 0.86 g of 1-benzyl-2-[(4-bromophenyl) dimethylaminomethyl]cyclohexanol, hydrochloride (35.9% of theory) were obtained according to the procedure described in Example 1 (3rd Stage) with chloro-trimethylsilane/water in 2-butanone. The hydrochloride decomposes on heating above 151° C.

reactant | hydrochloride | 5.77 mmole, 2.0 g | Cl | ClH
reactant | 2-[(4-bromophenyl)dimethylaminomethyl]cyclohexanone | BrC1=CC=C(C=C1)C(C1C(CCCC1)=O)N(C)C | C15H20BrNO
reactant | ammonia | 5 ml | N | H3N
reactant | benzylmagnesium chloride | 6.6 mmole, 2 M, 3.3 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8.5 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 1-benzyl-2-[(4-bromophenyl) dimethylaminomethyl]cyclohexanol, hydrochloride | 0.86 g, 35.9% | Cl.C(C1=CC=CC=C1)C1(C(CCCC1)C(N(C)C)C1=CC=C(C=C1)Br)O | InChI=1S/C22H28BrNO.ClH/c1-24(2)21(18-11-13-19(23)14-12-18)20-10-6-7-15-22(20,25)16-17-8-4-3-5-9-17;/h3-5,8-9,11-14,20-21,25H,6-7,10,15-16H2,1-2H3;1H
